US08791161B2
(1-propyl-1H-imidazol-4-yl)methanol (535 mg, 3.11 mmol) was first treated with SOCl2 (3 ml) in CH2Cl2 (5 ml) at 35° C. for 2 hrs. The solvent was removed to get a crude 4-(chloromethyl)-1-propyl-1H-imidazole. Then following General Procedure A, the title compound (587 mg, 67%) was prepared from 2-amino-4-chlorobenzenethiol (744 mg, 4.66 mmol), 4-(chloromethyl)-1-propyl-1H-imidazole, K2CO3 (2.1 g, 15.54 mmol) in DMF (10 ml).

reactant | (1-propyl-1H-imidazol-4-yl)methanol | 3.11 mmol, 535 mg | C(CC)N1C=NC(=C1)CO | C7H12N2O
reactant | SOCl2 | 3 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(chloromethyl)-1-propyl-1H-imidazole | ClCC=1N=CN(C1)CCC | C7H11ClN2
